US06281363B1
A solution of 0.076 g of (E)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-N-(3-benzyl-2,4,5-trioxo-1-imidazolidinyl]-4-methylvaleramide in 5 ml of methanol was hydrogenated in the presence of 0.025 g of 5% palladium-on-carbon for 6 hours. The catalyst was removed by filtration and the mixture evaporated. The residue was redissolved in 5 ml of methanol and hydrogenated in the presence of 0.020 g of 10% palladium-on-carbon for 3 hours. The catalyst was removed by filtration and the solvent was evaporated and the residue was then triturated with hexane and then with diethyl ether to give 0.022 g of N-(3-benzyl-2,4,5-trioxo-1-imidazolidinyl]-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenylbutyl]-4-methylvaleramide in the form of a white solid.

reactant | (E)-2(R)-[1(S)-(benzyloxycarbamoyl)-4-phenyl-3-butenyl]-N-(3-benzyl-2,4,5-trioxo-1-imidazolidinyl]-4-methylvaleramide | 0.076 g | C(C1=CC=CC=C1)ONC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)NN1C(N(C(C1=O)=O)CC1=CC=CC=C1)=O)CC(C)C | C34H36N4O6
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.025 g | [Pd] | Pd
product | N-(3-benzyl-2,4,5-trioxo-1-imidazolidinyl]-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenylbutyl]-4-methylvaleramide | 0.022 g | C(C1=CC=CC=C1)N1C(N(C(C1=O)=O)NC([C@H](CC(C)C)[C@H](CCCC1=CC=CC=C1)C(NO)=O)=O)=O | C27H32N4O6
